US04956359
3-(3-Bromophenoxy)-N-(2-propenyl)-1-azetidinecarboxamide
A stirred solution of 5.8 g (0.02 mole) of 3-(3-bromophenoxy)-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was treated with 2.85 g (0.05 mole) of 2-propenylamine. After stirring for 48 hr, the reaction mixture was diluted with 100 ml of water and the reddish oil which separated solidified upon standing. The solids were collected by filtration, 5.9 g. Upon repeated trituration with boiling isopropyl ether, the combined triturates upon cooling yielded 4 g (64.4%) of fine white crystals, m.p. 90°-92° C.

reactant | 3-(3-bromophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5.8 g | BrC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1 | C10H9BrClNO2
reactant | 2-propenylamine | 0.05 mole, 2.85 g | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-(3-Bromophenoxy)-N-(2-propenyl)-1-azetidinecarboxamide | 4 g, 64.4% | BrC=1C=C(OC2CN(C2)C(=O)NCC=C)C=CC1 | C13H15BrN2O2
